US07220744B2
(a) 5-Chlorosulfonyl-2-hydroxy-benzoic acid
To 3.26 mol chlorosulfonic acid at 0° C. was added 652 mmol salicylic acid in small portions and the mixture was then allowed to stir at RT for 1 h, then at 50° C. for 1 h, and finally at 70° C. for 1 h. The mixture was then added dropwise to 1000 ml ice-water with stirring and stirring continued for an additional 30 min. The ensuing white crystals were collected by filtration, washed three times with water, and then dried in vacuo at 45° C. for 16 h to yield the title compound. MS (m/e): 236.8 ([{37Cl}M−H]−, 33%), 235.0 ([{37Cl}M−H]−, 100%)

reactant | chlorosulfonic acid | 3.26 mol | ClS(=O)(=O)O | ClHO3S
reactant | salicylic acid | 652 mmol | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
product | 5-Chlorosulfonyl-2-hydroxy-benzoic acid | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C7H5ClO5S
